US09255110B2
Ammonium hydroxide (concentrated, 2 mL) was added to a solution of thieno[3,2-d]pyrimidine-7-carboxylic acid methyl ester (40 mg) in 1,4-dioxane (2 mL) and the resulting mixture was heated in a sealed tube at 100° C. overnight. The reaction mixture was then cooled and extracted with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (DCM/MeOH, 95/5) to give 12 mg of thieno[3,2-d]pyrimidine-7-carboxylic acid amide as a light brown solid. MS=180 [M+H]+.

reactant | Ammonium hydroxide | 2 mL | [OH-].[NH4+]
reactant | thieno[3,2-d]pyrimidine-7-carboxylic acid methyl ester | 40 mg | COC(=O)C1=CSC2=C1N=CN=C2 | C8H6N2O2S
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | thieno[3,2-d]pyrimidine-7-carboxylic acid amide | 12 mg | N1=CN=CC2=C1C(=CS2)C(=O)N | C7H5N3OS
